US07138401B2
N-[9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-chloro-9H-purin-2-yl]-N-methyl-acetamide
A mixture of N-[9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-chloro-9H-purin-2-yl]-acetamide and NaH in DMF was stirred at r.t. for 15 min, before adding MeI. Stirring was prolonged for 2 h at 50° C. Work-up and purification by preparative TLC (EtOAc:hexane 1:1) gave the title compound. HPLC Rt: 6.422 min. 1H-NMR (CDCl3): δ 8.20 (s, 1H), 6.80 (s, 1H), 5.45 (s, 2H), 3.93 (s, 3H), 3.90 (s, 3H), 3.82 (s, 3H), 3.57 (s, 3H), 2.51 (s, 3H).

reactant | N-[9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-chloro-9H-purin-2-yl]-acetamide | BrC1=C(CN2C3=NC(=NC(=C3N=C2)Cl)NC(C)=O)C=C(C(=C1OC)OC)OC | C17H17BrClN5O4
reactant | NaH | [H-].[Na+]
reactant | MeI | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-chloro-9H-purin-2-yl]-N-methyl-acetamide | BrC1=C(CN2C3=NC(=NC(=C3N=C2)Cl)N(C(C)=O)C)C=C(C(=C1OC)OC)OC | C18H19BrClN5O4
